US07479502B2
Proceeding as in Reference 21, but substituting 5-formyl-6-methoxy-3′-ureido-biphenyl-3-sulfonamide and 2-phenylacetyl chloride, gave 5-formyl-6-methoxy-N-(2-phenylacetyl)-3′-ureido-biphenyl-3-sulfonamide.

reactant | 5-formyl-6-methoxy-3′-ureido-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)NC(=O)N)S(=O)(=O)N | C15H15N3O5S
reactant | 2-phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 5-formyl-6-methoxy-N-(2-phenylacetyl)-3′-ureido-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)NC(=O)N)S(=O)(=O)NC(CC1=CC=CC=C1)=O | C23H21N3O6S
